US07763612B2
A mixture of 6-methoxy-6-oxohexanoyl chloride (0.040 mole) and paraformaldehyde (0.040 mole) are heated in a sealed vessel at 90 degrees for 3 hours. The reaction is cooled, and the solids are dissolved in dichloromethane. The solution is washed with 5% aqueous sodium bicarbonate, with water, and then with a saturated sodium chloride solution. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo to give crude product, which is purified by column chromatography on silica gel with hexanes/ethyl acetate as eluent. The fractions that contain pure product may be combined and spin evaporated in vacuo to give chloromethyl 6-methoxy-6-oxohexanoate. See Bodor et al., J. Med. Chem., (1980) 23: 469; Ulich et al., J. Am. Chem. Soc., (1921) 43: 660.

reactant | 6-methoxy-6-oxohexanoyl chloride | 0.040 mole | COC(CCCCC(=O)Cl)=O | C7H11ClO3
reactant | paraformaldehyde | 0.040 mole | C=O | CH2O
reactant | dichloromethane | ClCCl | CH2Cl2
product | chloromethyl 6-methoxy-6-oxohexanoate | COC(CCCCC(=O)OCCl)=O | C8H13ClO4
